US07005432B2
5-(4-Chloro-3-fluoro-phenyl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride
The title compound, MS: m/e=303.3 (M+H+), was prepared from 2-(4-chloro-3-fluoro-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane and 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine.

reactant | 2-(4-chloro-3-fluoro-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | ClC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C12H15BClFO2
reactant | 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine | ClC=1C=C(N=NC1)CN1C(=NC=C1)C | C9H9ClN4
product | 5-(4-Chloro-3-fluoro-phenyl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride | Cl.ClC1=C(C=C(C=C1)C=1C=C(N=NC1)CN1C(=NC=C1)C)F | InChI=1S/C15H12ClFN4.ClH/c1-10-18-4-5-21(10)9-13-6-12(8-19-20-13)11-2-3-14(16)15(17)7-11;/h2-8H,9H2,1H3;1H
